US04226768
7-Chloro-5-(2-fluorophenyl)-N'-methoxy-3H-1,4-benzodiazepine-2-carboximidamide
A mixture of 1.5 g (0.004 mole) of 7-chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine and 20 ml of methanol containing 20% (v/v) of ammonia was allowed to sit at room temperature for 41/2 hours. After partial evaporation the residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution. The methylene chloride layer was dried and evaporated. The residue was passed over neutral alumina using ether. Crystallization of the combined eluates from ether/hexane gave end product as colorless crystals with mp 120°-124° C.

reactant | 7-chloro-5-(2-fluorophenyl)-N-methoxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine | 0.004 mole, 1.5 g | ClC=1C=CC2=C(C(=NCC(=N2)C(=NOC)[N+](=O)[O-])C2=C(C=CC=C2)F)C1 | C17H12ClFN4O3
reactant | ammonia | N | H3N
solvent | methanol | 20 ml | CO | CH4O
product | 7-Chloro-5-(2-fluorophenyl)-N'-methoxy-3H-1,4-benzodiazepine-2-carboximidamide | ClC=1C=CC2=C(C(=NCC(=N2)C(N)=NOC)C2=C(C=CC=C2)F)C1 | C17H14ClFN4O
